US04771043
To a solution of 6β-bromoandrosta-1,4-diene-3,17-dione (5.0 g) in 250 ml of dimethylformamide, 1,15 g of powdered sodium azide dissolved in 14 ml of water are added and the mixture is warmed to 100° C. and maintained with stirring at the same temperature for 120 minutes. The entire mixture is then poured into 1 l of water and extracted with four 200 ml portions of ethyl acetate. The combined extracts are washed with saturated aqueous sodium chloride solution and dried. The solvent is then removed in vacuum to yield a crude product which is purified by chromatography on Al2O3 (neutral activity) with ethyl acetate:n-hexane 40:60 as eluant so obtaining 3.4 g of pure 6α-azido androsta-1,4-diene-3,17-dione. The analytical sample was crystallized from methanol, m.p. 168°-170° C.; [α]D20° +93.2° (c=1, CHCl3); U.V. (95% EtOH) λmax=244; ε=17,420; N.M.R. (CDCl3) δ: 0.98 (3H, s); 1.3 (3H, s); 4.31 (1H, ddd); 6.44 (1H, dd); 6.26 (1H, dd); 7.02 (1H, d). Following analogous procedure the 6β-azido androsta-1,4-diene-3,17-dione can be prepared, starting from 6α-bromo androsta-1,4-diene-3,17-dione.

reactant | 6β-bromoandrosta-1,4-diene-3,17-dione | 5.0 g | Br[C@@H]1C[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(C=CC(C=C12)=O)C)=O | C19H23BrO2
reactant | sodium azide | 1,15 g | [N-]=[N+]=[N-].[Na+]
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
solvent | water | 14 ml | O | H2O
solvent | water | 1 l | O | H2O
product | 6α-azido androsta-1,4-diene-3,17-dione | 3.4 g | N(=[N+]=[N-])[C@H]1C[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(C=CC(C=C12)=O)C)=O | C19H23N3O2
